US09216999B2
1-(trans-4-{[(Trifluoromethyl)sulfonyl]methyl}cyclohexyl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine
1-[trans-4-(Iodomethyl)cyclohexyl]-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine (50.0 mg, 0.131 mmol) and sodium trifluoromethylsulfinate (205 mg, 1.31 mmol) in N,N-dimethylformamide (3 mL) were stirred at 100° C. for 26 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The organic layer washed with saturated aqueous sodium hydrogen carbonate, saturated aqueous ammonium chloride and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/2→1/1 (v/v)) and preparative HPLC (Waters XBridge Prep C18 μm ODS, 19×100 mm, acetonitrile/0.1% aqueous formic acid solution=20/80→80/20(v/v)) to give the title compound as a colorless solid (6.30 mg, yield 12%).

reactant | 1-[trans-4-(Iodomethyl)cyclohexyl]-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine | 0.131 mmol, 50.0 mg | IC[C@@H]1CC[C@H](CC1)C=1N=NN2C=NC3=C(C21)C=CN3 | C14H16IN5
reactant | sodium trifluoromethylsulfinate | 1.31 mmol, 205 mg | FC(F)(F)S(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1-(trans-4-{[(Trifluoromethyl)sulfonyl]methyl}cyclohexyl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine | 6.30 mg, yield 12% | FC(S(=O)(=O)C[C@@H]1CC[C@H](CC1)C=1N=NN2C=NC3=C(C21)C=CN3)(F)F | C15H16F3N5O2S
